US08912188B2
To a solution of methyl 2-(2,4-difluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (150 mg, 0.40 mmol) in methanol (25 mL) and water (1 mL) was added sodium hydroxide (64.7 mg, 1.62 mmol), and the reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo, and then dissolved in water (30 mL), and adjusted to pH 4 with hydrochloric acid (3N) to give the precipitate, which was collected by filtration to afford 2-(2,4-difluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid as a light yellow solid (100 mg, 69%).

reactant | methyl 2-(2,4-difluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.40 mmol, 150 mg | FC1=C(C=CC(=C1)F)C1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C20H19F2N3O2
reactant | sodium hydroxide | 1.62 mmol, 64.7 mg | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 2-(2,4-difluorophenyl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid | 100 mg, 69% | FC1=C(C=CC(=C1)F)C1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)O | C19H17F2N3O2
